US07279487B2
Step 6: Preparation of methyl 1-benzyl-4-(benzyloxy)-2-oxo-1,2-dihydro-1,5-naphthyridine-3-carboxylate
To a solution of the sodium salt of methyl 4-hydroxy-2-oxo-1,2-dihydro-1,5-naphthyridine-3-carboxylate (2.0 g, 7.57 mmol) in water (50 mL) was added a solution of benzyl bromide (3.89 g, 22.72 mmol) in methylene chloride (50 mL). To the biphasic solution was then added tetrabutylammonium bromide (1.2 g, 3.79 mmol) and the reaction was sealed and heated to 50° C. After stirring overnight the reactions was cooled and the two layers were separated. The aqueous layer was extracted one time with methylene chloride and the combined organics were dried over sodium sulfate, filtered and concentrated. The crude mixture was separated by normal phase chromatography using an Isco 120 gram silica gel cartridge with a 50 minute gradient running at 40 mL/min. of 10% to 60% EtOAc/hexanes. The tubes containing the desired product were concentrated and taken on to the next step.

reactant | sodium | [Na] | Na
reactant | methyl 4-hydroxy-2-oxo-1,2-dihydro-1,5-naphthyridine-3-carboxylate | 7.57 mmol, 2.0 g | OC1=C(C(NC2=CC=CN=C12)=O)C(=O)OC | C10H8N2O4
reactant | benzyl bromide | 22.72 mmol, 3.89 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | water | 50 mL | O | H2O
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | tetrabutylammonium bromide | 3.79 mmol, 1.2 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | methyl 1-benzyl-4-(benzyloxy)-2-oxo-1,2-dihydro-1,5-naphthyridine-3-carboxylate | C(C1=CC=CC=C1)N1C(C(=C(C2=NC=CC=C12)OCC1=CC=CC=C1)C(=O)OC)=O | C24H20N2O4
